US04777252
(A) 4,5-Bis(phenylmethoxy)-2-pyridinecarboxylic acid, phenylmethyl ester
21.5 g (156 mmol) of potassium carbonate was added to a suspension of 29.4 g (120 mmol) of 1,4-dihydro-5-(phenylmethoxy)-4-oxo-2-pyridinecarboxylic acid in 350 ml of N,N-dimethylformamide (DMF) and stirred for 1 hour at room temperature. 31 ml (264 mmol) of benzylbromide was added and the mixture was heated at 100° C. under stirring for 25 hours. After cooling to room temperature, the DMF was distilled off in vacuo and the residue triturated with ethyl acetate with short heating to 60° C. 40 g of inorganic salts were filtered off, the filtrate was concentrated to ca. 75 ml and chromatographed on silica gel with ethyl acetate:petroleum ether 90:10 as eluent. Yield: 35.5 g; melting point 116.7° C.

reactant | potassium carbonate | 156 mmol, 21.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,4-dihydro-5-(phenylmethoxy)-4-oxo-2-pyridinecarboxylic acid | 120 mmol, 29.4 g | C1(=CC=CC=C1)COC=1C(C=C(NC1)C(=O)O)=O | C13H11NO4
reactant | benzylbromide | 264 mmol, 31 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | N,N-dimethylformamide | 350 ml | CN(C=O)C | C3H7NO
product | 4,5-Bis(phenylmethoxy)-2-pyridinecarboxylic acid, phenylmethyl ester | C1(=CC=CC=C1)COC1=CC(=NC=C1OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C27H23NO4
